US06204264B1
3-(2-Henicosyl-1H-benzimidazol-1-yl)-N,N-dimethyl-1-propanamine monohydrochloride (Compound 10)
4N Hydrochloric acid/ethyl acetate solution (0.11 ml) was added to a solution containing 3-(2-henicosyl-1H-benzimidazol-1-yl)-N,N-dimethyl-1-propanamine (0.20 g) in ethyl acetate (2 ml). After being stirred for 20 minutes at room temperature, the reaction mixture was concentrated. The residue was recrystallized with the mixed solution of ethanol-ethyl acetate, thereby yielding the entitled compound (0.19 g) as white solid.

reactant | Hydrochloric acid ethyl acetate | 4N, 0.11 ml | Cl.C(C)(=O)OCC
reactant | 3-(2-henicosyl-1H-benzimidazol-1-yl)-N,N-dimethyl-1-propanamine | 0.20 g | C(CCCCCCCCCCCCCCCCCCCC)C1=NC2=C(N1CCCN(C)C)C=CC=C2 | C33H59N3
solvent | ethyl acetate | 2 ml | C(C)(=O)OCC | C4H8O2
product | 3-(2-Henicosyl-1H-benzimidazol-1-yl)-N,N-dimethyl-1-propanamine monohydrochloride | 0.19 g | Cl.C(CCCCCCCCCCCCCCCCCCCC)C1=NC2=C(N1CCCN(C)C)C=CC=C2 | InChI=1S/C33H59N3.ClH/c1-4-5-6-7-8-9-10-11-12-13-14-15-16-17-18-19-20-21-22-28-33-34-31-26-23-24-27-32(31)36(33)30-25-29-35(2)3;/h23-24,26-27H,4-22,25,28-30H2,1-3H3;1H
